US04695649
Octyl p-hydroxybenzoate and isophthalic dichloride are made to react and treated in a similar procedure to Example 4 to yield di(p-octyloxycarbonylphenyl)isophthalate in a pale yellow oily state.

reactant | Octyl p-hydroxybenzoate | OC1=CC=C(C(=O)OCCCCCCCC)C=C1 | C15H22O3
reactant | isophthalic dichloride | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
product | di(p-octyloxycarbonylphenyl)isophthalate | C(CCCCCCC)OC(=O)C1=CC=C(C=C1)OC(C1=CC(C(=O)OC2=CC=C(C=C2)C(=O)OCCCCCCCC)=CC=C1)=O | C38H46O8
